US06451816B1
3-(1-Diphenylmethylpiperidin-4-yl)-propanylamine
12.8 g (29.2 mmol) 2-[3-(1-diphenylmethylpiperidine-4-yl)-propyl]-isoindol-1,3-dione are suspended in 110 ml ethanol and added to 2.2 ml (58.4 mmol) hydrazine hydrate and heated to boiling for three hours. After cooling, the mixture is concentrated under vacuum. The residue is dispersed between 300 ml dichloromethane and 50 ml 10% sodium hydroxide solution. The aqueous phase is extracted twice, each with 200 ml dichloromethane. The combined organic phases are washed twice, each with 20 ml water, and dried over sodium sulfate. The solvent is removed under vacuum and the residue is processed fruther without additional purification. Yield 7.3 g (81%)

reactant | 2-[3-(1-diphenylmethylpiperidine-4-yl)-propyl]-isoindol-1,3-dione | 29.2 mmol, 12.8 g | C1(=CC=CC=C1)C(N1CCC(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C29H30N2O2
reactant | hydrazine hydrate | 58.4 mmol, 2.2 ml | O.NN
solvent | ethanol | 110 ml | C(C)O | C2H6O
product | 3-(1-Diphenylmethylpiperidin-4-yl)-propanylamine | C1(=CC=CC=C1)C(N1CCC(CC1)CCCN)C1=CC=CC=C1 | C21H28N2
